reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2](/[N:3]=[C:5](/[O:6][C:4]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],55.1201041564393
[C:1]([N:2]([C:3](=[O:4])[H:11])[C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1](=[O:4])([H:9])[H:10].[N:2](=[C:3]([H:8])[H:11])[C:5](=[O:6])[C:7]([H:12])([H:13])[H:14],121.02228577637501
[C:1](=[C:2]=[C:3]([C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])[H:9])([H:7])[H:8]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],82.66793523751912
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([N:6]=[C:5]=[C:4]([H:14])[H:15])([H:11])[H:13])([H:10])[H:12])([H:7])([H:8])[H:9],100.467458697846
[C:1]([C@@:4]([C:3]([C:2][H:10])([H:11])[H:12])([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9],35.08635684689341
[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O+:3][C:4](=[C:5]([O-:6])[H:14])[H:12])[H:11])([H:7])([H:8])[H:9].[H:10][H:13],72.498427649478
[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1>>[N:1]1([H:11])[C:2][C@@:3]2([H:7])[C:4]([H:8])([H:9])[C@:5]1([H:10])[O:6]2,95.2677283485936
[C:1]([C@:2]1([H:12])[N:3]2[C:4]([H:11])([H:13])[C:5]([H:14])=[N:6][C@@:7]12[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],76.4986746633694
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5](=[O:7])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([H:16])([H:17])([H:18])[H:19]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],76.00735219492336
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:6]#[C:7][H:17])([H:13])[H:14])=[O:5])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][H:16],106.194300261374
[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][O:6][C:5](=[C:4]([H:12])[H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],101.908808828684
[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8]>>[N:1]([C:2][C:3]([C:4]([C:5]#[N:6])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],57.121619604937
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7]>>[O:1]([C:2][C:3]([C:4]([C:5]#[N:6])([H:8])[H:11])([H:9])[H:10])[H:7],56.739856427147
[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1](/[C:2]([O:3][H:11])=[C:4](\[O:5][C:6](=[O:7])[H:12])[H:10])([H:8])[H:9],60.2959344019577
[C:1]([C@:2]1([C:3]([C:4]([C:5][H:15])([H:13])[H:14])([H:11])[H:12])[C:6]([H:16])([H:17])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C@:2]12[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C@@:5]1([H:15])[C:6]([H:16])([H:17])[O:7]2)([H:8])([H:9])[H:10],11.680236174674803
[O:1](/[C:2](=[C:4](\[C:3]([H:7])([H:8])[H:10])[H:9])[H:6])[H:5]>>[O:1]([C:2]1([H:6])[C:3]([H:7])([H:8])[C:4]1([H:9])[H:10])[H:5],73.2168763081891
[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[O:4]([C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])[H:11],69.4106420924138
[C:1]([C:2](=[O:3])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([O:3][H:8])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:9])[H:10],66.4776540548502
[C:1]1([H:7])=[C:2]([H:9])[C:3]([H:10])=[C:4]([H:11])[N:5]([H:12])[C:6]1([H:8])[H:13]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],70.05067187382289
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[O:5])[H:13])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([O+:5]=[C-:4][H:13])([H:10])[H:12])([H:9])[H:11])([H:6])([H:7])[H:8],117.06328092484101
[O:1]([C:2](=[C:5]=[N:6][C:3]#[C:4][H:9])[H:8])[H:7]>>[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:5]#[N:6])[H:8])[H:7],74.49187097522159
[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8]>>[N:1]([C:2]1([N+:6]#[C-:5])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8],55.85955845703779
[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[O:1]([C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],81.40523997379191
